US06914153B2
Synthesis of 2-isopropylidene succinic acid, diethyl ester
52.5 mmol of potassium ethoxide were suspended in 100 mL of N,N-dimethylformamide in a 250 mL round bottom flask. To this slurry, heated up to 60° C., a mixture of 50 mmol of diethyl succinate and 57.5 mmol of acetone was added dropwise in 10 minutes. The course of the reaction was detected by GC. After 60 minutes the reaction was completed with a conversion of 97.2% (determined by GC). Then 87.5 mmol of ethyl bromide were added to the reaction mixture at 60° C. The slurry was stirred for 60 minutes at 60° C. The reaction was complete, giving the product isomers with a yield of 95% (determined by GC).

reactant | potassium ethoxide | 52.5 mmol | [O-]CC.[K+]
reactant | diethyl succinate | 50 mmol | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | acetone | 57.5 mmol | CC(=O)C | C3H6O
reactant | ethyl bromide | 87.5 mmol | C(C)Br | C2H5Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-isopropylidene succinic acid, diethyl ester | yield of 95% | C(C)(C)=C(C(=O)OCC)CC(=O)OCC | C11H18O4
